US08034812B2
Production of N-[3-({2-[(N-methylglycyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide
Using N-[3-({2-[(chloroacetyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide (92 mg, 0.187 mmol), methylamine/methanol (2 mL) solution and acetonitrile (1 mL) as starting materials and in the same manner as in Example 398, the title compound (22 mg, 25%) was obtained as a white powder.

reactant | N-[3-({2-[(chloroacetyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide | 0.187 mmol, 92 mg | ClCC(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C22H15ClF3N5O3
reactant | methylamine methanol | 2 mL | CN.CO
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | N-[3-({2-[(N-methylglycyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide | 22 mg, 25% | CNCC(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C23H19F3N6O3
